US06964966B2
Step-7: (+)-4-t−-Butyloxycarbonylamino-3,3-dimethylpiperidine:
(+)-1-Benzyloxycarbonyl-4-t−butyloxycarbonylamino-3,3-dimethylpiperidine (75 g, 0.207 mol) was dissolved in 500 ml methanol and the solution was transferred to a Parr reactor. Wet 10% palladium on carbon (7.5 g) was added to the solution and was stirred at 200 psi hydrogen pressure. Reaction progress was monitored on TLC and reaction was completed in 3-4 hrs. The reaction mixture was filtered as soon as it was completed. The residue was washed with 100 ml methanol. Fitrate was evaporated to dryness to afford the required product (47 g) in quantitative yield.

reactant | (+)-1-Benzyloxycarbonyl-4-t−butyloxycarbonylamino-3,3-dimethylpiperidine | 0.207 mol, 75 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)NC(=O)OC(C)(C)C)(C)C | C20H30N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on carbon | 7.5 g | [Pd] | Pd
product | (+)-4-t−-Butyloxycarbonylamino-3,3-dimethylpiperidine | 47 g, quantitative yield | C(C)(C)(C)OC(=O)NC1C(CNCC1)(C)C | C12H24N2O2
